US05510538
N-Methylephedrine (500 mg, 2.79 mmol) was added to a solution of o-iodobenzoic acid I (7.8 g; 27.9 mmol) in DMSO (55 ml). After 48 hours the solution was diluted with NaHCO3 (2.5%, 30 ml) and extracted with ethyl acetate (3×10 ml). The combined organic layers were washed with water (2×5 ml), dried over sodium sulfate and evaporated to dryness under vacuum. The residue was purified by distillation to give 460 mg (92%) of 2-dimethylamino-1-phenyl-propan-1-one (boiling at 113°-117° C./12 mm).

reactant | N-Methylephedrine | 2.79 mmol, 500 mg | CC(C(C1=CC=CC=C1)O)N(C)C | C11H17NO
reactant | o-iodobenzoic acid | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
solvent | DMSO | 55 ml | CS(=O)C | C2H6OS
solvent | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
product | 2-dimethylamino-1-phenyl-propan-1-one | 460 mg, 92% | CN(C(C(=O)C1=CC=CC=C1)C)C | C11H15NO
